US07960562B2
At room temperature, benzyl bromide (8.85 mL) and potassium carbonate (10.3 g) were added to a DMF (150 mL) solution of 2-methoxy-3-nitrobenzoic acid (9.80 g), followed by stirring for 70 minutes. The insoluble matter was separated by filtration, followed by evaporation under reduced pressure. This was subjected to liquid-liquid separation with ethyl acetate, aqueous sodium hydrogencarbonate solution, and hexane added thereto. The organic layer was washed with water and saturated brine in that order, dried, and then evaporated under reduced pressure to obtain benzyl 2-methoxy-3-nitrobenzoate (14.3 g).

reactant | benzyl bromide | 8.85 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxy-3-nitrobenzoic acid | 9.80 g | COC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO5
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | benzyl 2-methoxy-3-nitrobenzoate | 14.3 g | COC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1[N+](=O)[O-] | C15H13NO5
